US08455475B2
2,2,2-Trifluoro-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone
TFA (1 ml) was added to a stirred solution of tert-butyl 8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate (840 mg, 2.5 mmol) in MC (4 ml) and the mixture was stirred at RT for 12 h. The reaction mixture was then concentrated under reduced pressure and azeotroped with MC (2×10 ml). The crude product was dried and used for the next step without further purification.

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | 2.5 mmol, 840 mg | FC(C(=O)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)(F)F | C15H23F3N2O3
product | 2,2,2-Trifluoro-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone | FC(C(=O)N1CCC2(CCNC2)CC1)(F)F | C10H15F3N2O
